US09422312B2
Step 2: N′-(4-Bromophenyl)-N,N-dimethyl-methanesulfonimidamide
Potassium tert-butylate (958 mg) is added to a mixture of N-(4-bromophenyl)methanesulfinamide (1.00 g), N-chlorosuccinimide (684 mg), and dimethylamine solution (2 M in tetrahydrofuran; 6.41 mL) in acetonitrile at room temperature under an argon atmosphere. The reaction mixture is stirred at room temperature for 2 days. The reaction mixture is partitioned between water and ethyl acetate and the aqueous phase is extracted with ethyl acetate. The combined extracts are washed with brine, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 50:500:100) to give the title compound. LC (method 1): tR=0.95 min; Mass spectrum (ESI+): m/z=277, 279 [M+H]+.

reactant | Potassium tert-butylate | 958 mg | CC(C)(C)[O-].[K+]
reactant | N-(4-bromophenyl)methanesulfinamide | 1.00 g | BrC1=CC=C(C=C1)NS(=O)C | C7H8BrNOS
reactant | N-chlorosuccinimide | 684 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethylamine | 2 M, 6.41 mL | CNC | C2H7N
solvent | acetonitrile | C(C)#N | C2H3N
product | N′-(4-Bromophenyl)-N,N-dimethyl-methanesulfonimidamide | BrC1=CC=C(C=C1)N=S(=O)(N(C)C)C | C9H13BrN2OS
